multisource_5R_network - fault test
V1 A 0 DC 10
V2 B 0 DC 15
I1 0 C DC 5
C1 A 0 3.32e-06
R2 A B 1986.640546
R3 A C 1007.066166
R4 B C 1479.923034
R5 C 0 3947.676356
.op
.control
run
print v(A) v(B) v(C)
print @r2[i] @r3[i] @r4[i] @r5[i]
print @i1[i]
.endc
.end
